US09328124B2
A mixture of N-[5-(5-fluoropyrimidin-2-yl)-6a-(3-pyridyl)-3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole-1-carbothioyl]benzamide (550 mg, 1.22 mmol) and powdered zinc (798.33 mg, 12.21 mmol) in acetic acid (5 mL) is sonicated for 2 hours at room temperature. The mixture is extracted with ethyl acetate (100 mL) and a saturated aqueous sodium bicarbonate solution (30 mL). The aqueous phase is re-extracted three times with dichloromethane (100 mL). The combined organic extracts are dried over magnesium sulfate, filtered, and concentrated to give a residue. The residue is purified by silica gel chromatography using a 0-10% gradient of 0.14 M ammonia/methanol solution in dichloromethane to give the intermediate N-[[1-(5-fluoropyrimidin-2-yl)-4-(hydroxymethyl)-3-(3-pyridyl)pyrrolidin-3-yl]carbamothioyl]benzamide (145 mg). This is dissolved in dichloromethane (6 mL) and is cooled to 0° C. 1-Chloro-N,N,2-trimethylpropenylamine (0.05 g, 374.19 μmol) is then added and the mixture stirred at 0° C. for 1 hour. A saturated aqueous sodium bicarbonate solution (10 mL) and dichloromethane (100 mL) are added. The phases are separated and the organic phase is dried over magnesium sulfate, filtered, and concentrated. The residue is purified by silica gel chromatography using a 0-5% gradient of 0.14 M ammonia/methanol solution in dichloromethane to give the title product (110 mg, 17%). ES/MS (m/e): 435 (M+1).

reactant | N-[5-(5-fluoropyrimidin-2-yl)-6a-(3-pyridyl)-3,3a,4,6-tetrahydropyrrolo[3,4-c]isoxazole-1-carbothioyl]benzamide | 1.22 mmol, 550 mg | FC=1C=NC(=NC1)N1CC2(N(OCC2C1)C(=S)NC(C1=CC=CC=C1)=O)C=1C=NC=CC1 | C22H19FN6O2S
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
catalyst | zinc | 12.21 mmol, 798.33 mg | [Zn] | Zn
product | N-[[1-(5-fluoropyrimidin-2-yl)-4-(hydroxymethyl)-3-(3-pyridyl)pyrrolidin-3-yl]carbamothioyl]benzamide | 145 mg | FC=1C=NC(=NC1)N1CC(C(C1)CO)(C=1C=NC=CC1)NC(=S)NC(C1=CC=CC=C1)=O | C22H21FN6O2S
